data/pmechdb/original/mc_train_fold0/raw/train.txt
C[O+:21]=[CH:20]CCC1=CC=CC=C1.C[Si](C)(C)[CH:10]=[C:11]=C>>C[O:21][CH:20](CCC1=CC=CC=C1)[CH:10]([C+:11]=C)[Si](C)(C)C 10,11=10,20;20,21=21
[B-:10]([O+](C)C1=C(C=C(C=C1)CCC)C)(Br)(Br)[Br:11]>>[B:10]([O+](C)C1=C(C=C(C=C1)CCC)C)(Br)Br.[Br-:11] 10,11=11
C[CH+]C[Si:20](C)(C)C.C[O-:10]>>C[CH+]C[Si-:20](C)(C)(C)[O:10]C 10=20,
C[OH+:11][CH:10]1CC2C3CC4=C(C2(CCN3C5=CC=CC=C5)C=C1O)C(=C(C=C4)OC)O>>C[OH:11].COC1=C(C2=C(CC3C4C2(CCN3C5=CC=CC=C5)C=C([CH+:10]C4)O)C=C1)O 10,11=11
[H:20][N+:21]1(CCOCC1)C2(CCOC3=C2C=CC(=C3)C=C)O[Ti-](Cl)(Cl)(Cl)Cl.C1COCC[NH:10]1>>[H:20][NH+:10]1CCOCC1.C=CC1=CC2=C(C=C1)C(CCO2)([N:21]3CCOCC3)O[Ti-](Cl)(Cl)(Cl)Cl 10=20;20,21=21
[H:20][O:21]C(=O)C.CC1=CCC([NH+]1CCO)(C)[O-:10].O>>[H:20][O:10]C1(CC=C([NH+]1CCO)C)C.CC(=O)[O-:21].O 10=20;20,21=21
CC1(CCC[CH:10]1[OH2+:11])C>>CC1(CCC[CH+:10]1)C.[OH2:11] 10,11=11
[H:20][O+:21](CC)CC=C(N(CC)CC)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCN(CC)C(=CC[O:21]CC)O 10=20;20,21=21
CC1C(C2CCC13CC[CH:10]([C+:20]3C2)[C:11](=O)[O-:12])(C)C.CC1C2CCC(C23CCC(C3)C1(C)C)C(=O)O>>CC1C(C2CCC13CC[CH:10]=[C:20]3C2)(C)C.[C:11](=O)=[O:12].CC1C2CCC(C23CCC(C3)C1(C)C)C(=O)O 10,11=10,20;12=11
[H:10][AlH2-:11][O+:21]=[C:20](N(C)CCC1=C(C=C(C(=C1)OC)OC)I)OC(C)(C)C>>[H:10][C:20](N(C)CCC1=C(C=C(C(=C1)OC)OC)I)(OC(C)(C)C)[O:21][AlH2:11] 10,11=10,20;20,21=21
CCOC(=O)CC[C:20](C#N)([O-:10])[Cl:21]>>CCOC(=O)CC[C:20](=[O:10])C#N.[Cl-:21] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)N(C(C[CH+:20][CH2:10][Si-:11](C)(C)(C)Cl)C2=CC(=CC=C2)Cl)[Fe-](Cl)(Cl)Cl>>CC1=CC=C(C=C1)S(=O)(=O)N(C(C[CH:20]=[CH2:10])C2=CC(=CC=C2)Cl)[Fe-](Cl)(Cl)Cl.C[Si:11](C)(C)Cl 10,11=10,20
[H:20][O:21]S(=O)(=O)O.CC1(OCC(C[O:10]1)(C)C(=O)OCC#C)C.CO.O>>[H:20][O+:10]1CC(COC1(C)C)(C)C(=O)OCC#C.OS(=O)(=O)[O-:21].CO.O 10=20;20,21=21
C[N:10](C)[CH:20](N)[OH+:21]C.[Cl-]>>C[N+:10](=[CH:20]N)C.C[OH:21].[Cl-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCOC(CCO[Si](C)(C)C)(O)[OH:10]>>[H:20][OH+:10]C(CCO[Si](C)(C)C)(O)OCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
CCCOC(=O)C[N:21]1[N:20]=[N:10][P:11]1(C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.[OH3+]>>CCCOC(=O)C[N-:21][P+:11](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[N:10]#[N:20].[OH3+] 10,11=10,20;20,21=21
CC(=O)[O:11][Si-:10](C)(C)(C)C(C)(C)C>>CC(=O)[O-:11].CC(C)(C)[Si:10](C)(C)C 10,11=11
CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC(CCCCN1C(=O)C2=C(N=CN2CC3=CC=CC=C3)N(C1=O)C)[OH:10].C1=CC(=CC=C1C(=O)[O-])[N+](=O)[O-]>>CCOC(=O)NN(C(=O)OCC)[P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH+:10]C(C)CCCCN4C(=O)C5=C(N=CN5CC6=CC=CC=C6)N(C4=O)C.C1=CC(=CC=C1C(=O)[O-])[N+](=O)[O-] 10=20,
[H:20][CH:21](C=C(C(=O)O)C(=O)OC)C1=CC=CC=C1.CC(=O)[O-:10].C1CCNCC1.[OH3+]>>[H:20][O:10]C(=O)C.COC(=O)C(=C[CH-:21]C1=CC=CC=C1)C(=O)O.C1CCNCC1.[OH3+] 10=20;20,21=21
C[CH+:20]C.C1=CC=C[CH:10]=[CH:11]1.OP(=O)(O)[O-]>>C[CH:20](C)[CH:10]1C=CC=C[CH+:11]1.OP(=O)(O)[O-] 10,11=10,20
[H:20][C:21]1([C:22](=[O:23])CCC2(C1(CCC2=O)O)C)CCC3=CC(=CC=C3)OC.CC[O-:10]>>[H:20][O:10]CC.CC12CC[C:22](=[C:21](C1(CCC2=O)O)CCC3=CC(=CC=C3)OC)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][C:21]1(C=CC=C([CH+:22]1)C(=O)C)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=O)C1=CC=C[C:21](=[CH:22]1)S(=O)(=O)O 10=20;20,21=21,22
[H:20][CH:21](C(=O)C)[C:22](=[O:23])OCC.CCO[C:11](=[CH2:10])[O-:12]>>[H:20][CH2:10][C:11](=[O:12])OCC.CCO[C:22](=[CH:21]C(=O)C)[O-:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
C1C[O:10][CH:20]([OH+:21]1)C2=CC(=CC(=C2)OC3=C(C(=CC=C3Br)CO)F)C#N.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>C1=C(C(=C(C(=C1)Br)OC2=CC(=CC(=C2)C#N)[CH:20]=[O+:10]CC[OH:21])F)CO.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20;20,21=21
C[Si:20](C)(C)I.[Cl-:10]>>C[Si-:20](C)(C)([Cl:10])I 10=20,
[H:20][N+:21](C)(C)CC.[I-:10]>>[H:20][I:10].CC[N:21](C)C 10=20;20,21=21
[H:20][O:21]C(=O)C.CC[O:10]C(NNC(=O)C1=CC=C(C=C1)F)N2CCN(CC2)C3=C(C=C4C(=C3)N(C=C(C4=O)C(=O)O)C5CC5)F>>[H:20][O+:10](CC)C(NNC(=O)C1=CC=C(C=C1)F)N2CCN(CC2)C3=C(C=C4C(=C3)N(C=C(C4=O)C(=O)O)C5CC5)F.CC(=O)[O-:21] 10=20;20,21=21
C1=CC=C(C=C1)C[NH:10]C(=CC[C:20](=[O:21])C2=CC=CC=C2)C3=CC=CC=C3.CC(=O)O.O>>C1C=C([NH+:10]([C:20]1(C2=CC=CC=C2)[O-:21])CC3=CC=CC=C3)C4=CC=CC=C4.CC(=O)O.O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1C(=C(OC1(C2=CC=CC=C2)[OH:10])C3=CC=CC=C3)C#N.C1=CC=CC=C1>>[H:20][OH+:10]C1(CC(=C(O1)C2=CC=CC=C2)C#N)C3=CC=CC=C3.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C1=CC=CC=C1 10=20;20,21=21
[H:20][O:21]C(=O)C(C)NC(=O)OC.CC(C(=O)NC)[NH2:10].CC(C)N=C=NC(C)C>>[H:20][NH2+:10]C(C)C(=O)NC.CC(C(=O)[O-:21])NC(=O)OC.CC(C)N=C=NC(C)C 10=20;20,21=21
[H:20][O+:21]=C(C1=CC2=C(C=C1)C=CN2)OC.[OH2:10].CO.OS(=O)(=O)[O-]>>[H:20][OH2+:10].COC(=[O:21])C1=CC2=C(C=C1)C=CN2.CO.OS(=O)(=O)[O-] 10=20;20,21=21
C[C:20](C)([O:10]C)[Cl:21]>>C[C:20](=[O+:10]C)C.[Cl-:21] 10=20;20,21=21
CC[O:21][C:20]1(CCC(=O)C1)[O-:10]>>C1CC(=O)C[C:20]1=[O:10].CC[O-:21] 10=20;20,21=21
C1C2C=CC(C1(C[NH2:10])O)O2.[N:20]#[O+:21].O.OS(=O)(=O)[O-].[Na+]>>C1C2C=CC(C1(C[NH2+:10][N:20]=[O:21])O)O2.O.OS(=O)(=O)[O-].[Na+] 10=20;20,21=21
